US07705028B2
2a) Methyl 6-(2-chloro-4-hydroxyphenyl)-1-naphthalenecarboxylate
A solution of methyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthoate (0.97 g, 2.91 mmol), tetrakis(triphenylphosphine) palladium (0) (0.13 g, 0.116 mmol), 2 M Na2CO3 (13.6 mL) and 2-chloro-4-[((1,1-dimethylethyl)dimethylsilyl)oxy]phenylboronic acid (1 g, 3.49 mmol) in ethylene glycol dimethyl ether (15.5 mL) was heated at 80° C. for 40 minutes. The reaction mixture was cooled to room temperature, diluted with water and EtOAc, and transferred to a separatory funnel. The organic phase was separated, washed with brine, dried over MgSO4, filtered, and the filtrate was concentrated to give the crude product as an oil. The crude material was purified by flash chromatography over SiO2 with a Hex:EtOAc (0 to 20% EtOAc) gradient to afford 0.74 g (82%) of the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 10.06 (s, 1 H), 8.75 (d, J =9 Hz, 1 H), 8.22 (d, J=8 Hz, 1 H), 8.13 (d, J=7 Hz, 1 H), 8.01 (s, 1 H), 7.68 (m, 1H), 7.61 (t, J=8 Hz, 1 H), 7.34 (d, J=9 Hz, 1 H), 6.96 (m, 1 H), 6.86 (m, 1 H), 3.93 (s, 3 H).

reactant | methyl 6-{[(trifluoromethyl)sulfonyl]oxy}-1-naphthoate | 2.91 mmol, 0.97 g | FC(S(=O)(=O)OC=1C=C2C=CC=C(C2=CC1)C(=O)OC)(F)F | C13H9F3O5S
reactant | Na2CO3 | 2 M, 13.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-chloro-4-[((1,1-dimethylethyl)dimethylsilyl)oxy]phenylboronic acid | 3.49 mmol, 1 g | ClC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)B(O)O | C12H20BClO3Si
solvent | ethylene glycol dimethyl ether | 15.5 mL | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.116 mmol, 0.13 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl 6-(2-chloro-4-hydroxyphenyl)-1-naphthalenecarboxylate | 0.74 g, 82% | ClC1=C(C=CC(=C1)O)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C18H13ClO3
